US08013156B2
A mixture of 4-(2-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (18 mmol, 5 g), DMF (40 ml) and cesium carbonate (40 mmol, 13 g) was stirred at room temperature for 15 minutes, followed by addition of 4-picolyl chloride hydrochloride (18 mmol, 2.953 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was poured onto ice/water and extracted with ethyl acetate (3×). The combined organic layer was washed with Sat. NaCl. The crude product was purified on silica column using 75% EtOAc/hexanes to give 4-[2-(Pyridin-4-ylmethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (4.5 g).

reactant | 4-(2-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 18 mmol, 5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | cesium carbonate | 40 mmol, 13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-picolyl chloride hydrochloride | 18 mmol, 2.953 g | Cl.N1=CC=C(C=C1)CCl
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 4-[2-(Pyridin-4-ylmethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 4.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC1=CC=NC=C1 | C21H27N3O3
